US03989749
To a solution of ethyl 7-ureidoheptanoate (2.1 g., 0.01 mole) in pyridine (10 ml.) is added p-toluenesulfonylchloride (2.0 g., excess). The reaction is stirred at room temperature for two hours, poured into water (100 ml.), then extracted with ether (2 × 100 ml.). The ether is washed with 5% hydrochloric acid (2 × 25 ml.), brine, then dried over sodium sulfate. The solvent is removed in vacuo to give ethyl 7-cyanamidoheptanoate as a light yellow oil, yield 1.7 g. (86%).

reactant | ethyl 7-ureidoheptanoate | 0.01 mole, 2.1 g | N(C(=O)N)CCCCCCC(=O)OCC | C10H20N2O3
reactant | p-toluenesulfonylchloride | 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 100 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 7-cyanamidoheptanoate | N(C#N)CCCCCCC(=O)OCC | C10H18N2O2
